US07319102B1
Preparation of [7-(2,6-difluorophenyl)-2-(tetrahydropyran-4-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-(4-fluorophenyl)-methanone (5):
To a solution of [7-(2,6-difluoro-phenyl)-2-methanesulfonyl-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-(4-fluoro-phenyl)-methanone, 4, (0.50 g, 1.28 mmol) in 1-methyl-2-pyrrolidinone (4 mL) is added 4-aminotetrahydropyran (0.18 g, 1.80 mmol). The reaction mixture is heated to 90° C. for 19 hours after which the reaction is cooled to room temperature and concentrated in vacuo. The crude residue is purified over silica (40% EtOAc/hexanes) to afford 444 mg of the desired product as a yellow solid: 1H NMR (300 MHz, CDCl3) δ 8.74 (s, 1H), 7.93 (dd, J=9.0, 5.4 Hz, 2H), 7.48-7.39 (m, 1H), 7.20 (t, J=9.0 Hz, 2H), 7.12-7.06 (m, 3H), 4.10-3.95 (m, 3H), 3.49 (t, J=7.6 Hz, 2H), 2.40 (t, J=7.6 Hz, 2H), 2.06-2.01 (m, 2H); HRMS calcd for C24H19F3N4O2 (M+H)+ 453.1539; found 453.1551.

reactant | [7-(2,6-difluoro-phenyl)-2-methanesulfonyl-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-(4-fluoro-phenyl)-methanone | FC1=C(C(=CC=C1)F)N1C(=CC2=C1N=C(N=C2)S(=O)(=O)C)C(=O)C2=CC=C(C=C2)F | C20H12F3N3O3S
reactant | 4-aminotetrahydropyran | 1.80 mmol, 0.18 g | NC1CCOCC1 | C5H11NO
solvent | 1-methyl-2-pyrrolidinone | 4 mL | CN1C(CCC1)=O | C5H9NO
product | [7-(2,6-difluorophenyl)-2-(tetrahydropyran-4-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-(4-fluorophenyl)-methanone | 444 mg | FC1=C(C(=CC=C1)F)N1C(=CC2=C1N=C(N=C2)NC2CCOCC2)C(=O)C2=CC=C(C=C2)F | C24H19F3N4O2
